US07148226B2
2-(4-{2-[2-Cyclopentyl-5-(5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-ylmethyl)-4,6-dioxo-tetrahydro-pyran-2-yl]-ethyl}-2-fluoro-phenyl)-2-ethyl-butyronitrile
A solution of 2-{4-[2-(2-cyclopentyl-4,6-dioxo-tetrahydro-pyran-2-yl)-ethyl]-2-fluoro-phenyl}-2-ethyl-butyronitrile (300 mg, 0.75 mmol) in anhydrous MeOH (3.0 mL) was treated with 5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde (198 mg, 1.1 mmol), followed by borane-dimethylamine complex (62 mg, 1.05 mmol) at room temperature. The reaction was stirred for 12 hours before it was quenched by the addition of CH2Cl2 (30 mL) and Amberlite IR 120(plus) (3 g). The reaction was stirred for 30 minutes, and then filtered. The filtrate was concentrated to an oil, dissolved in CH2Cl2 (25 mL, and then washed with 10 mL 1 N HCl. The aqueous layer was extracted with 2×25 mL CH2Cl2. The organic layers were combined and dried over Na2SO4. After removing the solids by filtration, the liquid was concentrated to an oil. The desired product was isolated by preparatory HPLC (76 mg, 18%). 1H NMR (400 MHz, CDCl3) δ: 0.74 (t, J=7.45 Hz, 6 H), 1.37–1.59 (m, 8 H), 1.79–1.88 (m, 4 H), 1.94–2.03 (m, 2 H), 2.21 (t, J=8.84 Hz, 3 H), 2.36 (d, J=17.94 Hz, 1 H), 2.47–2.55 (m, 5 H), 2.59–2.63 (m, 4 H), 3.95 (d, J=3.54 Hz, 2 H), 6.66 (dd, J1=13.26 Hz, J2=1.64 Hz, 1 H), 6.72–6.75 (m, 2 H), 7.23 (t, J=8.21 Hz, 1 H).

reactant | 2-{4-[2-(2-cyclopentyl-4,6-dioxo-tetrahydro-pyran-2-yl)-ethyl]-2-fluoro-phenyl}-2-ethyl-butyronitrile | 0.75 mmol, 300 mg | C1(CCCC1)C1(OC(CC(C1)=O)=O)CCC1=CC(=C(C=C1)C(C#N)(CC)CC)F | C24H30FNO3
reactant | 5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde | 1.1 mmol, 198 mg | CC1=NC=2N(C(=C1)C)N=C(N2)C=O | C8H8N4O
solvent | MeOH | 3.0 mL | CO | CH4O
product | 2-(4-{2-[2-Cyclopentyl-5-(5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-ylmethyl)-4,6-dioxo-tetrahydro-pyran-2-yl]-ethyl}-2-fluoro-phenyl)-2-ethyl-butyronitrile | C1(CCCC1)C1(OC(C(C(C1)=O)CC1=NN2C(N=C(C=C2C)C)=N1)=O)CCC1=CC(=C(C=C1)C(C#N)(CC)CC)F | C32H38FN5O3
